US03932465
A solution of 0.063 g of phloroglucinol in 0.3 ml of trifluoroacetic acid is mixed with 0.04 g of 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid, and the solution is left to stand for 30 minutes at room temperature and diluted with an equal quantity of toluene. The mixture is evaporated to dryness under reduced pressure and the residue is worked up in accordance with the process described in example 6. 7-(N-Phenylacetyl-amino)-3-(2,4,6-trihydroxy-benzyl)-ceph-2-em-4ξ-carboxylic acid is thus obtained, showing the following Rf values in a thin layer chromatogram (silica gel): 0.73 (system n-butanol/acetic acid/water, 67:10:23) and 0.55 (system n-butanol/ethanol/water, 40:10:50).

reactant | phloroglucinol | 0.063 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 0.04 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
solvent | trifluoroacetic acid | 0.3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-(N-Phenylacetyl-amino)-3-(2,4,6-trihydroxy-benzyl)-ceph-2-em-4ξ-carboxylic acid | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)CC2=C(C=C(C=C2O)O)O)C(=O)O)C1=O | C22H20N2O7S
